US05688798
A stream of hydrogen chloride gas was conducted through a solution of 3.42 g (0.0904 mol) of tert.-butyl 6-(3,5-dichloro-phenyl)-3,4-dihydro-1H-isoquinoline-2-carboxylate in 180 ml of ethyl acetate. The reaction was followed by thin-layer chromatography. The mixture was cooled to 0° and suction filtered. 2.58 g (91%) of 6-(3,5-dichlorophenyl)-3,4-dihydro-1H-isochinoline hydrochloride were obtained as white crystals; m.p. 220°-260° (dec.).

reactant | hydrogen chloride | Cl | ClH
reactant | tert.-butyl 6-(3,5-dichloro-phenyl)-3,4-dihydro-1H-isoquinoline-2-carboxylate | 0.0904 mol, 3.42 g | ClC=1C=C(C=C(C1)Cl)C=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C20H21Cl2NO2
solvent | ethyl acetate | 180 ml | C(C)(=O)OCC | C4H8O2
product | 6-(3,5-dichlorophenyl)-3,4-dihydro-1H-isochinoline hydrochloride | 2.58 g, 91% | Cl.ClC=1C=C(C=C(C1)Cl)C=1C=C2CCNCC2=CC1 | InChI=1S/C15H13Cl2N.ClH/c16-14-6-13(7-15(17)8-14)10-1-2-12-9-18-4-3-11(12)5-10;/h1-2,5-8,18H,3-4,9H2;1H
